US05728874
A 500 mL flask equipped with mechanical stirrer, condenser, addition funnel, and thermometer was charged with 50.0 g (0.255 mol) of 2-nitrobenzene sulfonyl chloride (Aldrich). Upon dropwise addition of 5M aqueous sodium hydroxide (125 mL, 0.625 mol) the reaction mixture warmed to 80° C. and a dark red/brown solution resulted. The mixture was stirred for 1 hour and the flask allowed to cool to room temperature. Next, 52.5 g of zinc dust (0.803 mol, Mallinckrodt) was added in one portion. The reaction mixture turned green and warmed to 40° C. Sodium hydroxide (50 percent w/w, 113.75 g, 1.42 mol) was then cautiously added dropwise. The temperature of the reaction mixture rose quickly and vigorous reflux ensued. The reaction mixture turned black, then light green, and finally gray. After addition was complete, the reaction mixture was heated to 90° C. and stirred for 30 minutes. The reaction mixture was cooled and filtered through diatomaceous earth. The zinc salts were washed several times with water yielding 850 mL of an orange/brown filtrate. The filtrate was immediately transferred to a 2 L flask equipped with mechanical stirrer, condenser, addition funnel, nitrogen inlet, and thermometer. Concentrated hydrochloric acid (250 mL) was added dropwise. A light yellow precipitate formed, leaving a clear yellow supernatant (pH=7). Further addition of acid caused the solid to dissolve and the solution to turn orange and then brown (pH=4). More acid caused a tan precipitate to form and persist. After HCl addition was complete, the temperature had risen to 45° C. and the pH was 1. The reaction mixture was stirred for an additional hour and then cooled in an ice bath. The precipitate was collected by filtration and dried in a vacuum oven at ambient temperature yielding a cake which weighed 11.69 g. The product was purified by dissolving it in 150 mL of hot water containing 13.5 mL of 5M sodium hydroxide. Concentrated HCl (15 mL) was then slowly added to reprecipitate the product. Vacuum filtration and drying in a vacuum oven at ambient temperature yielded 11.07 g (28.6 percent) of 4,4'-diaminobiphenyl-3,3'-disulfonic acid.

reactant | 2-nitrobenzene sulfonyl chloride | 0.255 mol, 50.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | sodium hydroxide | 0.625 mol, 5M, 125 mL | [OH-].[Na+]
reactant | Sodium hydroxide | 1.42 mol, 113.75 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
catalyst | zinc | 0.803 mol, 52.5 g | [Zn] | Zn
product | 4,4'-diaminobiphenyl-3,3'-disulfonic acid | 11.07 g, 28.6 percent | NC1=C(C=C(C=C1)C1=CC(=C(C=C1)N)S(=O)(=O)O)S(=O)(=O)O | C12H12N2O6S2
